US07094769B2
Ethyl 9-{(2R,3R,4R,5R)-3,4-bis(acetyloxy)-5-[(acetyloxy)methyl]tetrahydro-2-furanyl}-6-[(2,2-diphenylethyl)amino]-9H-purine-2-carboxylate
To a suspension of ethyl 6-[(2,2-diphenylethyl)amino]-9H-purine-2-carboxylate (Preparation 63) (40.0 g, 0.103 moles) in anhydrous 1,2-dimethoxyethane (240 ml) under an atmosphere of nitrogen was added 4-methylmorpholine (11.5 g, 12.5 ml, 0.114 moles) and the resultant mixture was heated to 45° C. with stirring. To this mixture was then added trimethylsilyl trifluoromethanesulphonate (27.5 g, 22.4 ml, 0.124 moles) over a period of 10 minutes. The resultant orange solution was then heated to 55° C., and a solution of 1,2,3,5-tetra-O-acetyl-β-D-ribofuranose (36.1 g, 0.113 moles) in 1,2-dimethoxyethane (100 ml plus 20 ml to rinse through) was added over a period of 10 minutes. The reaction was then stirred at 57–60° C. for 2 hours after which time the mixture was cooled to ambient temperature. The reaction mixture was then cautiously added to a mixture of saturated aqueous sodium bicarbonate solution (400 ml) and ethyl acetate (400 ml) with vigorous stirring. The layers were separated and the aqueous phase was extracted with ethyl acetate (400 ml). The combined organic phases were dried over anhydrous magnesium sulphate and were then concentrated in vacuo to give the crude product as an orange foam (74.9 g) that could be used as such for the next step. This crude product can be purified using flash chromatography on silica gel eluting with a gradient system of 10% v/v diethyl ether in dichloromethane changing to 25% v/v diethyl ether in dichloromethane to give the title compound as a colourless foam.

reactant | ethyl 6-[(2,2-diphenylethyl)amino]-9H-purine-2-carboxylate | 0.103 moles, 40.0 g | C1(=CC=CC=C1)C(CNC1=C2N=CNC2=NC(=N1)C(=O)OCC)C1=CC=CC=C1 | C22H21N5O2
reactant | 4-methylmorpholine | 0.114 moles, 12.5 ml, 11.5 g | CN1CCOCC1 | C5H11NO
reactant | trimethylsilyl trifluoromethanesulphonate | 0.124 moles, 22.4 ml, 27.5 g | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | 1,2,3,5-tetra-O-acetyl-β-D-ribofuranose | 0.113 moles, 36.1 g | C(C)(=O)O[C@H]1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C13H18O9
reactant | sodium bicarbonate | 400 ml | C([O-])(O)=O.[Na+]
solvent | 1,2-dimethoxyethane | 240 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 100 ml | COCCOC | C4H10O2
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
product | Ethyl 9-{(2R,3R,4R,5R)-3,4-bis(acetyloxy)-5-[(acetyloxy)methyl]tetrahydro-2-furanyl}-6-[(2,2-diphenylethyl)amino]-9H-purine-2-carboxylate | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)COC(C)=O)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OCC | C33H35N5O9
